US04469638
1.1 g (6.2 mMoles) of anthracene, 300 ml of THF and 0.1 ml of methyliodide are added in an inert gas atmosphere to 7.2 g (300 mMoles) of magnesium powder (particle size <0.15 mm). A yellow-green solution is formed while stirring at room temperature, orange colored magnesium anthracene precipitating therefrom after about 2 hours. The reaction mixture is treated for about 3 hours in an ultrasonic bath (as in Example 1) and then heated while stirring to 60° C. After the addition of 32.0 g (400 mMoles) of monomeric methyl cyclopentadiene, the heat source is removed and 35.6 g (100 mMoles) of solid cobalt-(III)-acetylacetonate are added over a period of 30 minutes, the reaction mixture changing color to deep red-brown with a reflux-producing heat effect (65° C.). After cooling to 23° C., the reaction mixture is filtered off from any undissolved fractions through a G-3-glass frit and the deep red-brown filtrate is concentrated to dryness (max. bath temperature 30° C.) in vacuo (10-1Torr). The residue is taken up in 500 ml of pentane and any undissolved fractions are eliminated by filtration. The clear, deep red filtrate is concentrated to dryness (max. bath temperature 30° C.) in vacuo (10-1Torr) and the residue distilled at 10-3Torr (bath temperature 80°-140° C.). 13.6 g (62.4 mMoles=62.4% of the theoretical) of η5 -methylcyclopentadienyl cobalt methylcyclopentadiene are obtained in the form of a dark red oil which solidifies at around -5° C.

reactant | anthracene | 6.2 mMoles, 1.1 g | C1=CC=CC2=CC3=CC=CC=C3C=C12 | C14H10
reactant | methyliodide | 0.1 ml | CI | CH3I
reactant | magnesium | 300 mMoles, 7.2 g | [Mg] | Mg
reactant | magnesium anthracene | C1=CC=CC2=CC3=CC=CC=C3C=C12.[Mg]
reactant | methyl cyclopentadiene | 400 mMoles, 32.0 g | CC1=CC=CC1 | C6H8
reactant | cobalt-(III) acetylacetonate | [Co+3].C/C(=C/C(=O)C)/[O-]
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | methylcyclopentadienyl cobalt methylcyclopentadiene | CC1=CC=CC1.C[Co]C1C=CC=C1 | InChI=1S/C6H8.C5H5.CH3.Co/c1-6-4-2-3-5-6;1-2-4-5-3-1;;/h2-4H,5H2,1H3;1-5H;1H3;
